US05593660
a) 5-Methoxyacetylamino-2,4,6-triiodoisophthalic acid-N,N-bis-(methoxycarbonylmethyl)-amide chloride
A solution of 66.8 g (100 mmol) of 5-methoxyacetyl-amino-2,4,6-triiodoisophthalic acid dichloride (EP 0 015 867) in 300 ml of anhydrous N,N-dimethylformamide is mixed with 21.75 g (110 mmol) of iminodiacetic acid dimethyl ester hydrochloride (synthesis according to Dubsky, Graenacher, Chem. Ber. 50, 1693 (1917)) and 30.5 ml (220 mmol) of triethylamine. A suspension results, which is stirred for 14 hours at room temperature under argon. The batch is taken up in dichloromethane, shaken out once with water, twice with 2N aqueous citric acid and once with aqueous sodium bicarbonate solution. The organic phase is dried on anhydrous magnesium sulfate and concentrated by evaporation in a vacuum. By instilling tert-butyl ether in the concentrated solution, the title compound can precipitate as crystalline solid, which is suctioned off and dried in a vacuum.

reactant | 5-methoxyacetyl-amino-2,4,6-triiodoisophthalic acid dichloride | 100 mmol, 66.8 g | COCC(=O)C=1C(=C(C(=C(C(=O)[ClH]N)C1I)I)C(=O)Cl)I | C11H8Cl2I3NO4
reactant | iminodiacetic acid dimethyl ester hydrochloride | 110 mmol, 21.75 g | Cl.COC(CNCC(=O)OC)=O
reactant | triethylamine | 220 mmol, 30.5 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | 2N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Methoxyacetylamino-2,4,6-triiodoisophthalic acid-N,N-bis-(methoxycarbonylmethyl)-amide chloride | [Cl-].COC(=O)CN(C(C1=C(C(C(=O)O)=C(C(=C1I)NC(COC)=O)I)I)=O)CC(=O)OC | InChI=1S/C17H17I3N2O9.ClH/c1-29-6-7(23)21-15-13(19)10(12(18)11(14(15)20)17(27)28)16(26)22(4-8(24)30-2)5-9(25)31-3;/h4-6H2,1-3H3,(H,21,23)(H,27,28);1H/p-1
